US06951879B2
In analogy to example 19.1, 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-butan-1-ol and Dimethylamine were converted to yield {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-dimethyl-amine as brown oil, MS: 389 (MH+, 1Br).

reactant | 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-butan-1-ol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCO | C17H16BrNOS
reactant | Dimethylamine | CNC | C2H7N
product | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-dimethyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCN(C)C | C19H21BrN2S
